US07846956B2
1.68 g of (1-cyclohexyl-1H-pyrazol-4-yl)methanol was dissolved in 20 ml of dichloromethane, and 2.0 ml of thionyl chloride was then added. The mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure to obtain 2.15 g of 1-cyclohexyl-4-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | (1-cyclohexyl-1H-pyrazol-4-yl)methanol | 1.68 g | C1(CCCCC1)N1N=CC(=C1)CO | C10H16N2O
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-cyclohexyl-4-(chloromethyl)-1H-pyrazole hydrochloride | 2.15 g | Cl.C1(CCCCC1)N1N=CC(=C1)CCl | InChI=1S/C10H15ClN2.ClH/c11-6-9-7-12-13(8-9)10-4-2-1-3-5-10;/h7-8,10H,1-6H2;1H
